US04960766
A mixture of benzhydryl 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer, 8.76 g), N-methylpyrazole (8.76 g), sodium iodide (1.5 g) and acetone (9 ml) was stirred at ambient temperature for 19 hours The reaction mixture was evaporated, and ethyl acetate (200 ml) and 5% aqueous solution of sodium thiosulfate were added to the residue. The organic layer was separated and tetrahydrofuran (100 ml) was added thereto. The solution was dried over magnesium sulfate and evaporated and the residue was dissolved in a mixture of tetrahydrofuran (200 ml) and water (65 ml). The solution was subjected to column chromatography on an ion-exchange resin "Amberlite IRA-400" (Cl⃝ form), and eluted with a mixture of tetrahydrofuran and water (15:1 V/V). The fractions containing the object compound were collected, combined and evaporated. The residue was triturated with diisopropyl ether to give benzhydryl 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride (syn isomer, 8.0 g).

reactant | benzhydryl 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 8.76 g | FC(ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C46H36ClF2N5O5S2
reactant | N-methylpyrazole | 8.76 g | CN1N=CC=C1 | C4H6N2
reactant | sodium iodide | 1.5 g | [I-].[Na+]
solvent | acetone | 9 ml | CC(=O)C | C3H6O
product | benzhydryl 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate chloride | 8.0 g | [Cl-].FC(ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | InChI=1S/C50H41F2N7O5S2.ClH/c1-57-28-17-29-58(57)30-35-31-65-46-41(45(61)59(46)42(35)47(62)63-43(33-18-7-2-8-19-33)34-20-9-3-10-21-34)54-44(60)40(56-64-48(51)52)39-32-66-49(53-39)55-50(36-22-11-4-12-23-36,37-24-13-5-14-25-37)38-26-15-6-16-27-38;/h2-29,32,41,43,46,48H,30-31H2,1H3,(H-,53,54,55,60);1H/t41-,46-;/m1./s1
